US04724199
Synthesis of 5-Mercapto-1-{3-[4-(2-Formylhydrazino)Phenylcarbamoyl]Phenyl}Tetrazole
In 50 ml of dimethylformamide were dissolved 11.1 g of 1-(3-carboxyphenyl)-5-mercaptotetrazole and 7.6 g of 4-(2-formylhydrazino)aniline, and a solution of 10.3 g of dicyclohexylcarbodiimide in 10 ml of dimethylformamide was added dropwise to the solution at 0° C. in a nitrogeneous atmosphere over about 30 minutes. After the addition, the mixture was stirred at room temperature for 3 hours. The precipitated dicyclohexylurea was separated by filtration, and the filtrate was added to 500 ml of ice-water while stirring. The thus precipitated crystals were filtered, washed with water and dispersed in 100 ml of hot methanol. The dispersion was allowed to cool to room temperature and filtered. The filtrate was washed with methanol to obtain 4.5 g of the desired compound. Melting point: 202° C. (with decomposition).

reactant | 1-(3-carboxyphenyl)-5-mercaptotetrazole | 11.1 g | C(=O)(O)C=1C=C(C=CC1)N1N=NN=C1S | C8H6N4O2S
reactant | 4-(2-formylhydrazino)aniline | 7.6 g | C(=O)NNC1=CC=C(N)C=C1 | C7H9N3O
reactant | dicyclohexylcarbodiimide | 10.3 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 5-Mercapto-1-{3-[4-(2-Formylhydrazino)Phenylcarbamoyl]Phenyl}Tetrazole | 4.5 g | SC1=NN=NN1C1=CC(=CC=C1)C(NC1=CC=C(C=C1)NNC=O)=O | C15H13N7O2S
